US05241065
(S)-7-chloro-8-hydroxy-3-methyl-1-(1,2-dimethyl-1-propenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine (as hydrochloride);
(R)-7-chloro-8-hydroxy-3-methyl-1-(2-methyl-1-cyclopentenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine, m.p. of hydrochloride 249°-251° C. (dec.).

reactant | (R)-7-chloro-8-hydroxy-3-methyl-1-(2-methyl-1-cyclopentenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC2=C([C@H](CN(CC2)C)C2=C(CCC2)C)C=C1O | C17H22ClNO
reactant | hydrochloride | Cl | ClH
product | (S)-7-chloro-8-hydroxy-3-methyl-1-(1,2-dimethyl-1-propenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC2=C([C@@H](CN(CC2)C)C(=C(C)C)C)C=C1O | C16H22ClNO
